US07863294B2
Step 1: 2-[(Chlorosulfonyl)(methyl)amino]-N,N-dimethylethanaminium chloride (C1)
To a solution of sulfuryl chloride (1.0 eq.) in CHCl3 at 0° C. was added dropwise trimethylethylenediamine (1.0 eq.) over 15 mins. After the addition, the cooling bath was removed and the mixture was stirred overnight at RT. The solvent was removed under reduced pressure and the residue was left under high vacuum for 4 h. The crude product was obtained as a pale yellow solid and was used without further purification. 1H NMR (300 MHz, DMSO-d6) δ: 3.46-3.29 (4H, m), 2.83 (6H, s), 2.60 (3H, s).

reactant | sulfuryl chloride | 1.0 eq. | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | trimethylethylenediamine | 1.0 eq. | CNCCN(C)C | C5H14N2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-[(Chlorosulfonyl)(methyl)amino]-N,N-dimethylethanaminium chloride | [Cl-].ClS(=O)(=O)N(CC[NH+](C)C)C | InChI=1S/C5H13ClN2O2S.ClH/c1-7(2)4-5-8(3)11(6,9)10;/h4-5H2,1-3H3;1H
